US08278343B2
Preparation 24: 2-(4-Chloro-phenyl)-5-methoxy-pyrimidine
The title compound was prepared according to the method described for Preparation 17 using 2-chloro-5-methoxy-pyrimidine and 4-chlorophenylboronic acid to afford the title compound as an off-white solid (4.05 g, 40%)

reactant | 2-chloro-5-methoxy-pyrimidine | ClC1=NC=C(C=N1)OC | C5H5ClN2O
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2-(4-Chloro-phenyl)-5-methoxy-pyrimidine | 4.05 g, 40% | ClC1=CC=C(C=C1)C1=NC=C(C=N1)OC | C11H9ClN2O
